US06294532B1
Thionyl chloride (15 ml) and DMF (0.05 ml) were added to 5-methoxy-4-(3-morpholinopropoxy)-2-nitrobenzoic acid trifluoroacetate (7.54 g, 16.6 mmol). The mixture was heated at 50° C. for 1 hour, the excess thionyl chloride was removed by evaporation and by azeotroping with toluene (x2). The resulting solid was suspended in THF (200 ml) and ammonia was bubbled through the mixture for 30 minutes. The precipitate was removed by filtration, washed with THF and discarded. After concentration of the filtrate by evaporation, the product crystallised and was collected by filtration to give 5-methoxy-4-(3-morpholinopropoxy)-2-nitrobenzamide (5.25 g, 93%yield) as light yellow crystals which were used without further purification.

reactant | Thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-methoxy-4-(3-morpholinopropoxy)-2-nitrobenzoic acid trifluoroacetate | 16.6 mmol, 7.54 g | FC(C(=O)O)(F)F.COC=1C(=CC(=C(C(=O)O)C1)[N+](=O)[O-])OCCCN1CCOCC1
reactant | DMF | 0.05 ml | CN(C)C=O | C3H7NO
product | 5-methoxy-4-(3-morpholinopropoxy)-2-nitrobenzamide | 5.25 g | COC=1C(=CC(=C(C(=O)N)C1)[N+](=O)[O-])OCCCN1CCOCC1 | C15H21N3O6
